US05366972
b) 5,11-Dihydro-11-ethyl-5-methyl-2-trifluoromethanesulfonyloxy-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one
To a solution of 5,11-Dihydro-11-ethyl-2-hydroxy-5-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one (0.2 g) in methylene chloride (4 ml) under nitrogen was added diisopropylethylamine (0.2 ml) followed by trifluoromethanesulfonic anhydride (0.2 ml). The resulting mixture was stirred for one hour, and then diluted with methylene chloride (20 ml), and washed with water. The organic phase was dried (anhydrous magnesium sulfate), concentrated, and purified on a silica gel column (ethyl acetate/hexane, 1:3) to give fairly pure product, suitable for use in the next reaction.

reactant | 5,11-Dihydro-11-ethyl-2-hydroxy-5-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one | 0.2 g | C(C)N1C2=C(N(C(C3=C1N=CC=C3)=O)C)C=CC(=N2)O | C14H14N4O2
reactant | diisopropylethylamine | 0.2 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | trifluoromethanesulfonic anhydride | 0.2 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | methylene chloride | 4 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 5,11-Dihydro-11-ethyl-5-methyl-2-trifluoromethanesulfonyloxy-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one | C(C)N1C2=C(N(C(C3=C1N=CC=C3)=O)C)C=CC(=N2)OS(=O)(=O)C(F)(F)F | C15H13F3N4O4S
